US04444766
3-(7-Decyloxyheptylthio)-propanol (m.p. 28°-32° C.), obtained by reacting heptane-1,7-diol with 1-bromodecane to give 7-decyloxyheptanol, bromination thereof to give 7-decyloxyheptyl bromide, reaction with methyl β-mercaptopropionate to give methyl β-(7-decyloxyheptylthio)-propionate and reduction with lithium aluminium hydride, is reacted in the manner described in Example 20C to give the desired choline ester in a yield of 17% of theory. The water-soluble, white crystals sinter at 53° C. and melt at 224° C.

reactant | heptane-1,7-diol | C(CCCCCCO)O | C7H16O2
reactant | 1-bromodecane | BrCCCCCCCCCC | C10H21Br
product | 7-decyloxyheptanol | C(CCCCCCCCC)OCCCCCCCO | C17H36O2
